US08541407B2
To a suspension of (4-(9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepin-3-yl)phenyl)methanol (1.35 g, 3.95 mmol) in dichloromethane (70 mL) was added diisopropylethylamine (1.72 mL, 9.89 mmol) and methanesulfonyl chloride (0.767 mL, 9.89 mmol). The reaction mixture was stirred at room temperature for 30 minutes. The mixture was washed with water (50 mL), saturated aqueous sodium bicarbonate solution (50 mL) and water (3×50 mL). The organic phase was dried over sodium sulfate, filtered and concentrated in vacuo, yielding the 4-(9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepin-3-yl)benzyl methanesulfonate as a light yellow solid (1.7 g, quantitative). M.p.=252-253° C.; 400 MHz 1H NMR (DMSO-d6) δ: 8.82 (br.s, 1H), 8.22 (dd, J=4.8, 1.6 Hz, 1H), 7.97 (dd, J=7.6, 1.6 Hz, 1H), 7.6-7.4 (m, 5H), 7.36 (dd, J=8.0, 1.2 Hz, 1H), 7.2-7.1 (m, 2H), 6.92 (dd, J=7.6, 4.4 Hz, 1H), 5.33 (s, 2H), 3.28 (s, 3H); LCMS [M+H]: 420.

reactant | (4-(9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepin-3-yl)phenyl)methanol | 3.95 mmol, 1.35 g | N=1N=C(N2C3=C(NC4=C(C21)C=CC=C4)N=CC=C3)C3=CC=C(C=C3)CO | C20H15N5O
reactant | diisopropylethylamine | 9.89 mmol, 1.72 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 9.89 mmol, 0.767 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
product | 4-(9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepin-3-yl)benzyl methanesulfonate | CS(=O)(=O)OCC1=CC=C(C=C1)C1=NN=C2N1C1=C(NC3=C2C=CC=C3)N=CC=C1 | C21H17N5O3S
